US05650533
A mixture of 1-(4-chloro-2-methylsulphonylphenyl)-3-cyclopropylpropan-1,3-dione (7.1 g) and triethyl orthoformate (6.9 g) in acetic anhydride was stirred and heated at reflux for 2 hours. The mixture was evaporated to dryness, toluene was added and the solution was re-evaporated to give 1-(4-chloro-2-methylsulphonylphenyl)-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione (8.4 g) as a red gum which was not purified further.

reactant | 1-(4-chloro-2-methylsulphonylphenyl)-3-cyclopropylpropan-1,3-dione | 7.1 g | ClC1=CC(=C(C=C1)C(CC(=O)C1CC1)=O)S(=O)(=O)C | C13H13ClO4S
reactant | triethyl orthoformate | 6.9 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-chloro-2-methylsulphonylphenyl)-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione | 8.4 g | ClC1=CC(=C(C=C1)C(C(C(=O)C1CC1)=COCC)=O)S(=O)(=O)C | C16H17ClO5S
